US08383644B2
3-{2-[4-(3,4-Dichloro-benzyloxy)-phenyl]-2-oxo-ethoxy}-4-fluoro-benzonitrile
4-Fluoro-3-hydroxy-benzonitrile (15 g), 2-bromo-1-[4-(3,4-dichloro-benzyloxy)-phenyl]-ethanone (45 g), and potassium carbonate 45 g) were suspended together in 630 mL acetone with stirring. The mixture continued to stir for 18 hours, then was concentrated to dryness. The solid residue was taken up in 500 mL diethyl ether and stirred 1.5 h, then 1 L water was added and stirred vigorously an additional 3 hours. The solid product was collected by filtration and washed with 200 mL diethyl ether three times. It was then dissolved in THF, filtered to remove any remaining inorganic salt, and evaporated again to dryness. After drying under vacuum 18 h, 48 g of desired product was obtained (quantitative). 1H NMR (400 MHz, DMSO-d6): 7.97 (d, 2H), 7.66 (d, 1H), 7.45 (m, 2H), 7.46 (m, 3H), 7.16 (d, 2H), 5.72 (s, 2H), 5.25 (s, 2H).

reactant | 4-Fluoro-3-hydroxy-benzonitrile | 15 g | FC1=C(C=C(C#N)C=C1)O | C7H4FNO
reactant | 2-bromo-1-[4-(3,4-dichloro-benzyloxy)-phenyl]-ethanone | 45 g | BrCC(=O)C1=CC=C(C=C1)OCC1=CC(=C(C=C1)Cl)Cl | C15H11BrCl2O2
reactant | potassium carbonate | 45 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 630 mL | CC(=O)C | C3H6O
product | 3-{2-[4-(3,4-Dichloro-benzyloxy)-phenyl]-2-oxo-ethoxy}-4-fluoro-benzonitrile | 48 g | ClC=1C=C(COC2=CC=C(C=C2)C(COC=2C=C(C#N)C=CC2F)=O)C=CC1Cl | C22H14Cl2FNO3
